US20010044407A1
12.8 g (225 mmol) of 95% pure sodium methoxide were introduced into a solution of 16.8 g (112 mmol) of 4-allylcatechol in 250 ml of methanol, with stirring, followed by 21 ml (225 mmol) of methyl bromoacetate. After refluxing for 8 h, a further 21 ml (225 mmol) of methyl bromoacetate were added, and, after a further 4 h of heating, a further 12.8 g (225 mmol) of sodium methoxide and a further 21 ml (225 mmol) of methyl bromoacetate. After a further 4 h under reflux, the mixture was worked up by adding 500 ml of ether and filtering off the precipitate formed. The filtrate was concentrated on a rotary evaporator and taken up in ether/water/saturated ammonium chloride solution (1:1:1). The organic phase was separated off, and the aqueous phase was extracted three times, each time with 200 ml of ether. The combined organic phases were dried over sodium sulfate and concentrated to dryness on a rotary evaporator. After flash chromatography (ether/pentane, 1:1, Rf=0.35) on silica gel, 21.4 g (65%) of methyl 4-allyl-2-(ethoxycarbonylmethoxy)phenoxyacetate were obtained.

reactant | sodium methoxide | 225 mmol, 12.8 g | C[O-].[Na+]
reactant | 4-allylcatechol | 112 mmol, 16.8 g | C(C=C)C=1C=C(C(O)=CC1)O | C9H10O2
reactant | methyl bromoacetate | 225 mmol, 21 ml | BrCC(=O)OC | C3H5BrO2
reactant | methyl bromoacetate | 225 mmol, 21 ml | BrCC(=O)OC | C3H5BrO2
reactant | sodium methoxide | 225 mmol, 12.8 g | C[O-].[Na+]
reactant | methyl bromoacetate | 225 mmol, 21 ml | BrCC(=O)OC | C3H5BrO2
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | methanol | 250 ml | CO | CH4O
product | methyl 4-allyl-2-(ethoxycarbonylmethoxy)phenoxyacetate | 21.4 g, 65% | C(C=C)C1=CC(=C(OCC(=O)OC)C=C1)OCC(=O)OCC | C16H20O6
